US04684739
To a solution prepared by dissolving 7.3 g of potassium hydroxide in 7 ml of water and then adding 120 ml of t-butanol are added 15 g of 3,4-methylenedioxyphenol and 88 g of 1,3-dibromopropane and the mixture is stirred for 3 hours under heating at reflux. After completion of the reaction, the solvent is distilled off and benzene is added and washed with water. The benzene layer is dried over anhydrous sodium sulfate and the solvent is distilled off. The residue is subjected to vacuum distillation to give 23 g of 5-(3-bromopropoxy)-1,3-benzodioxole boiling at 120° C./1 mmHg.

reactant | potassium hydroxide | 7.3 g | [OH-].[K+]
reactant | t-butanol | 120 ml | C(C)(C)(C)O | C4H10O
reactant | 3,4-methylenedioxyphenol | 15 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | 1,3-dibromopropane | 88 g | BrCCCBr | C3H6Br2
solvent | water | 7 ml | O | H2O
product | 5-(3-bromopropoxy)-1,3-benzodioxole | 23 g | BrCCCOC1=CC2=C(OCO2)C=C1 | C10H11BrO3
